US04118558
(A) 2-[(4-Chlorophenyl)methylene]-6-phenylcyclohexanone
Fifty grams of 2-phenylcyclohexanone, 54.0 g of 4-chlorobenzaldehyde and a solution of 20 g of sodium hydroxide in 125 ml of water are reacted in 300 ml of ethanol according to the procedure described in part A of Example 1 to yield 81.2 g of material, melting point 103°-109° C. After crystallization from 100 ml of acetonitrile, the crystalline product weighs 61.6 g, melting point 118°-120° C.

reactant | 2-phenylcyclohexanone | Fifty grams | C1(=CC=CC=C1)C1C(CCCC1)=O | C12H14O
reactant | 4-chlorobenzaldehyde | 54.0 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | sodium hydroxide | 20 g | [OH-].[Na+]
solvent | water | 125 ml | O | H2O
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-[(4-Chlorophenyl)methylene]-6-phenylcyclohexanone | 81.2 g | ClC1=CC=C(C=C1)C=C1C(C(CCC1)C1=CC=CC=C1)=O | C19H17ClO
